US08957049B2
4-(4-Bromophenyl)piperidine HCl (1 g, 3.7 mmol) in DCM (6 mL) was treated with K2CO3 (1.3 g, 9 mmol, 2.5 eq.) and Boc2O (1.35 g, 6 mmol, 1.6 eq). The mixture was diluted with water, extracted with MTBE, washed with brine, dried on Na2SO4, and concentrated. Chromatography on silica gel (2>8% EtOAc/hexanes) gave 1 Boc 4 (4-bromophenyl)piperidine (944 mg, 76%). This bromide was converted via Method 3 to 1-Boc-4-(4-boronophenyl)piperidine pinacol ester (1.16 g, quant.).

reactant | 4-(4-Bromophenyl)piperidine HCl | 3.7 mmol, 1 g | Cl.BrC1=CC=C(C=C1)C1CCNCC1
reactant | K2CO3 | 9 mmol, 1.3 g, 2.5 eq. | C(=O)([O-])[O-].[K+].[K+]
reactant | Boc2O | 6 mmol, 1.35 g, 1.6 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 6 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | Boc 4 (4-bromophenyl)piperidine | 944 mg, 76% | C(=O)(OC(C)(C)C)N1CCC(CC1)C1=CC=C(C=C1)Br | C16H22BrNO2
